US07745438B2
(2R,3S,5R)-5-{(1S,2S)-2-Acetylamino-3-[3-fluoro-5-(3-methyl-butyl)-phenyl]-1-hydroxy-propyl}-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester
Beginning with 3-methylbutyl zinc bromide and (2R,3S,5R)-5-[(1S,2S)-1-hydroxy-2-acetylamino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (0.165 g, 0.287 mmol), the title compound (0.127 g, 78%) may be prepared essentially as described in Preparation 409.

reactant | 3-methylbutyl zinc bromide | [Br-].CC(CC[Zn+])C
reactant | (2R,3S,5R)-5-[(1S,2S)-1-hydroxy-2-acetylamino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.287 mmol, 0.165 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Br)NC(C)=O)O)OCC(C)(C)C)C | C26H40BrFN2O6
product | (2R,3S,5R)-5-{(1S,2S)-2-Acetylamino-3-[3-fluoro-5-(3-methyl-butyl)-phenyl]-1-hydroxy-propyl}-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 0.127 g, 78% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)CCC(C)C)F)NC(C)=O)O)OCC(C)(C)C)C | C31H51FN2O6
